US05869501
7-Formyl-2-naphthalenecarbonitrile obtained in Reference Example 1 (3.0 g) was dissolved in 50 ml of acetone. The solution was cooled to 0° C. with stirring, and a solution prepared by dissolving 10 g of chromium oxide (IV) in 11 ml of concentrated sulfuric acid and 50 ml of water was added until the mixture becomes orange yellow. The reaction solution was stirred at 0° C. for 90 minutes and then at room temperature for 45 minutes, followed by the addition of 2 ml of isopropyl alcohol. The reaction solution was evaporated, water was added to the resulting residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was extracted with saturated sodium bicarbonate aqueous solution, the saturated sodium bicarbonate layer was adjusted to pH 1 by adding concentrated sulfuric acid, and the thus precipitated solid matter was collected by filtration to give 1.94 g of 7-cyano-2-naphthalenecarboxylic acid.

reactant | 7-Formyl-2-naphthalenecarbonitrile | C(=O)C1=CC=C2C=CC(=CC2=C1)C#N | C12H7NO
reactant | isopropyl alcohol | 2 ml | C(C)(C)O | C3H8O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | sulfuric acid | 11 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
catalyst | chromium oxide | 10 g | [O-2].[Cr+3].[O-2].[O-2].[Cr+3]
product | 7-cyano-2-naphthalenecarboxylic acid | 1.94 g | C(#N)C1=CC=C2C=CC(=CC2=C1)C(=O)O | C12H7NO2
